US06099625
N,N-bis(3-hydroxypropyl) aniline (10.46 g) was dissolved in hydrochloric acid (20cm3) at 0-5° C. and sodium nitrite (3.45 g) in water(15cm3) was added dropwise. The mixture was stirred for 1 hr, water (10cm3) was added, made alkaline with sodium carbonate, separated in to an oil and water layer. The oil was dissolved in dichloromethane and the solvent removed to leave N,N-bis(3-hydroxypropyl)4-nitrosoaniline as a yellow solid.

reactant | N,N-bis(3-hydroxypropyl) aniline | 10.46 g | OCCCN(C1=CC=CC=C1)CCCO | C12H19NO2
reactant | sodium nitrite | 3.45 g | N(=O)[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 20cm3 | Cl | ClH
solvent | water | 15cm3 | O | H2O
solvent | water | 10cm3 | O | H2O
product | N,N-bis(3-hydroxypropyl)4-nitrosoaniline | OCCCN(C1=CC=C(C=C1)N=O)CCCO | C12H18N2O3
